US06297234B1
(4-Bromo-2-methyl-phenyl)-(5,11-dihydro-pyrido[2,3-b][1,5] benzodiazepin-6-yl)-methanone
To a solution of 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine (3 g, 15.2 mmol) in N,N-dimethylformamide under nitrogen was added solid potassium carbonate (6.3 g, 45.6 mmol). A solution of the crude 4-bromo-2-methylbenzoyl chloride (22.8 mmol) in N,N-diethylformamide was added dropwise, and the mixture stirred at room temperature for 15 minutes. Excess potassium carbonate was filtered off, the filtrate was washed with water and the aqueous layer was extracted with chloroform. The extracts were dried over anhydrous sodium sulfate, evaporated to dryness and the residue dissolved in dichloromethane and absorbed onto a silica Merck-60 flash column. Elution with 20% ethyl acetate in hexane provided the title compound (3.2 g) as a foam which crystallized upon sonication from ethanol hexane.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine | 15.2 mmol, 3 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | potassium carbonate | 45.6 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-methylbenzoyl chloride | 22.8 mmol | BrC1=CC(=C(C(=O)Cl)C=C1)C | C8H6BrClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-diethylformamide | C(C)N(C=O)CC | C5H11NO
product | (4-Bromo-2-methyl-phenyl)-(5,11-dihydro-pyrido[2,3-b][1,5] benzodiazepin-6-yl)-methanone | 3.2 g | BrC1=CC(=C(C=C1)C(=O)N1CC2=C(NC3=C1C=CC=C3)N=CC=C2)C | C20H16BrN3O
